US03932446
82 parts of 4-dimethylaminosalicylaldehyde is dissolved in 500 parts by volume of acetone, then 96 parts of potassium carbonate and 45 parts of chloroacetonitrile are added and the whole is boiled under reflux for 10 hours. After the solution has been filtered it is concentrated and the crystals deposited are recrystallized from benzene with the addition of animal charcoal. 36 parts of colorless crystals of 2-formyl-5-dimethylaminophenoxyacetonitrile is obtained with a melting point of 124° to 125°C.

reactant | 4-dimethylaminosalicylaldehyde | CN(C=1C=C(C(C=O)=CC1)O)C | C9H11NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | acetone | CC(=O)C | C3H6O
product | 2-formyl-5-dimethylaminophenoxyacetonitrile | C(=O)C1=C(OCC#N)C=C(C=C1)N(C)C | C11H12N2O2
